US07351726B2
Step 2: Synthesis of (2-Ethyl-benzofuran-3-yl)-phenyl-methanol:
Sodium borohydride (7.26 g; 0.192 mol) was added portionwise to the mixture of (2-ethyl-benzofuran-3-yl)-phenyl-methanone (24 g; 0.096 mol) in ethanol (300 mL) while stirring and cooling in ice bath under an atmosphere of nitrogen. The mixture was stirred at room temperature for one hour and the solvent was then evaporated. The residue was extracted with ether and the ethereal extracts were washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated to give a yellow solid (22.5 g), m.p. 98-99° C. Mass spectrum (ESI, [M+] m/z 252. 1HNMR (400 MHz, DMSO-d6): δ 1.24 (t, 3H, J=7.69 Hz), 2.91 (q, 2H, J=7.69 Hz), 5.86 (d, 1H, J=3.7 Hz), 5.98 (d, 1H, J=3.7 Hz), 7.06 (dt, 1H, J=7.25, 0.9 Hz), 7.13-7.21 (m, 2H), 7.28-7.32 (m, 2H), 7.4-7.46 (m, 4H). Elemental Analysis for C17H16O2: Calculated: C, 80.93; H, 6.39. Found: C, 81.03; H, 6.31.

reactant | Sodium borohydride | 0.192 mol, 7.26 g | [BH4-].[Na+]
reactant | (2-ethyl-benzofuran-3-yl)-phenyl-methanone | 0.096 mol, 24 g | C(C)C=1OC2=C(C1C(=O)C1=CC=CC=C1)C=CC=C2 | C17H14O2
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | (2-Ethyl-benzofuran-3-yl)-phenyl-methanol | 22.5 g | C(C)C=1OC2=C(C1C(O)C1=CC=CC=C1)C=CC=C2 | C17H16O2
